### PR TITLE
[Merged by Bors] - fix: reintroduce to_fun_as_coe as simp lemma

### PR DESCRIPTION
**Pull request by kbuzzard**
This is a proposed fix for the broken simp calls in #922. See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60simp.60.20calls.20broken.20in.20mathlib4.23922/near/314783451 for more details. Note that `to_fun_as_coe` was a syntactic tautology when it was ported, but this is no longer the case because we now have `FunLike`.

### CODE REVIEW

**Comment by kbuzzard** [comment]
OK so adding `to_fun_as_coe_apply` made the linter go nuts because `@[simps]` is generating lemmas which aren't in simp normal form now. It's also not generating the additive versions of the lemmas, and furthermore the autoporter is not generating the #aligns for simps-generated lemmas anyway, so I am fixing several problems at once here. 

In an ideal world, someone (unfortunately not me) will make `@[simps]` generate lemmas which don't mention `toFun`, and will also make `@[to_additive, simps]` work, and someone (unfortunately also not me) will make the autoporter generate `#align` statements for all the lemmas generated by `@[simps]` . This PR can be thought of as a workaround for all of these issues. Even if it's thought of as not a good idea to make `to_fun_as_coe` a simp lemma, the rest of this PR is still independently of some use while we wait for these fixes (which I've not opened issues for).

File: Mathlib/Algebra/Hom/Equiv/Units/Basic.lean [hunk 1]
```diff
@@ -215,16 +215,31 @@ end Equiv
...
+@[simp] theorem AddEquiv.neg_apply (G : Type _) [SubtractionCommMonoid G] (a : G) :
+    (AddEquiv.neg G).toEquiv a = -a :=
+  rfl
+#align add_equiv.neg_apply AddEquiv.neg_apply
+
 @[simp]
 theorem MulEquiv.inv_symm (G : Type _) [DivisionCommMonoid G] :
     (MulEquiv.inv G).symm = MulEquiv.inv G :=
   rfl
+
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/Equiv/Units/Basic.lean:244]:
```suggestion
```

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 2]
```diff
@@ -515,15 +515,29 @@ theorem map_ne_one_iff {M N} [MulOneClass M] [MulOneClass N] (h : M ≃* N) {x :
...
-@[to_additive "A bijective `AddSemigroup` homomorphism is an isomorphism", simps apply]
+@[to_additive "A bijective `AddSemigroup` homomorphism is an isomorphism"]
 noncomputable def ofBijective {M N F} [Mul M] [Mul N] [MulHomClass F M N]
 (f : F) (hf : Function.Bijective f) :
     M ≃* N :=
   { Equiv.ofBijective f hf with map_mul' := map_mul f }
 #align mul_equiv.of_bijective MulEquiv.ofBijective
 #align add_equiv.of_bijective AddEquiv.ofBijective
 
+-- porting note: `@[simps apply]` should be making this lemma.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:529]:
```suggestion
-- porting note: `@[simps apply]` should be making this lemma but it actually makes
-- a lemma with `toFun` which isn't in simp normal form.
```

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 3]
```diff
@@ -515,15 +515,29 @@ theorem map_ne_one_iff {M N} [MulOneClass M] [MulOneClass N] (h : M ≃* N) {x :
...
+@[simp] theorem ofBijective_apply {M N F} [Mul M] [Mul N] [MulHomClass F M N]
+    (f : F) (hf : Function.Bijective f) (a : M) : (MulEquiv.ofBijective f hf).toEquiv a = f a :=
+  rfl
+#align mul_equiv.of_bijective_apply MulEquiv.ofBijective_apply
+
+-- porting note: `@[simps apply]` should be making this lemma.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:535]:
```suggestion
-- porting note: `@[to_additive, simps apply]` should be making this lemma but it
-- doesn't get generated.
```

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 4]
```diff
@@ -575,8 +589,7 @@ for multiplicative maps from a monoid to a commutative monoid.
 -/
 @[to_additive
   "An additive analogue of `Equiv.arrowCongr`,
-  for additive maps from an additive monoid to a commutative additive monoid.",
-  simps apply]
+  for additive maps from an additive monoid to a commutative additive monoid."]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:592]:
```suggestion
  for additive maps from an additive monoid to a commutative additive monoid."]
-- porting note: @[simps apply] removed because it was making a lemma which
-- wasn't in simp normal form.
```

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 5]
```diff
@@ -588,6 +601,19 @@ def monoidHomCongr {M N P Q} [MulOneClass M] [MulOneClass N] [CommMonoid P] [Com
 #align mul_equiv.monoid_hom_congr MulEquiv.monoidHomCongr
 #align add_equiv.add_monoid_hom_congr AddEquiv.addMonoidHomCongr
 
+@[simp] theorem monoidHomCongr_apply {M N P Q} [MulOneClass M] [MulOneClass N] [CommMonoid P]
+    [CommMonoid Q] (f : M ≃* N) (g : P ≃* Q) (h : M →* P) :
+    (MulEquiv.monoidHomCongr f g).toEquiv h = MonoidHom.comp (MulEquiv.toMonoidHom g)
+    (MonoidHom.comp h (MulEquiv.toMonoidHom (MulEquiv.symm f))) :=
+  rfl
+#align mul_equiv.monoid_hom_congr_apply MulEquiv.monoidHomCongr_apply
+
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:610]:
```suggestion

-- porting note: this should be being generated by `@[to_additive, simps apply]`.
```

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 6]
```diff
@@ -633,14 +659,37 @@ theorem piCongrRight_trans {η : Type _} {Ms Ns Ps : η → Type _} [∀ j, Mul
...
-  equivalent to the element at the single index.",
-  simps]
+  equivalent to the element at the single index."]
 def piSubsingleton {ι : Type _} (M : ι → Type _) [∀ j, Mul (M j)] [Subsingleton ι]
   (i : ι) : (∀ j, M j) ≃* M i :=
   { Equiv.piSubsingleton M i with map_mul' := fun _ _ => Pi.mul_apply _ _ _ }
 #align mul_equiv.Pi_subsingleton MulEquiv.piSubsingleton
 #align add_equiv.Pi_subsingleton AddEquiv.piSubsingleton
 
+@[simp] theorem piSubsingleton_apply {ι : Type _} (M : ι → Type _) [∀ j, Mul (M j)]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:669]:
```suggestion
-- porting note: the next four lemmas should be being generated by `@[to_additive, simps]`
@[simp] theorem piSubsingleton_apply {ι : Type _} (M : ι → Type _) [∀ j, Mul (M j)]
```

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 7]
```diff
@@ -702,6 +781,30 @@ def MonoidHom.toMulEquiv [MulOneClass M] [MulOneClass N] (f : M →* N) (g : N 
 #align monoid_hom.to_mul_equiv MonoidHom.toMulEquiv
 #align add_monoid_hom.to_add_mul_equiv AddMonoidHom.toAddEquiv
 
+@[simp] theorem MonoidHom.toMulEquiv_apply [MulOneClass M] [MulOneClass N] (f : M →* N) (g : N →* M)
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:784]:
```suggestion
-- porting note: the next 4 lemmas should be being generated by
-- `@[to_additive, simps (config := { fullyApplied := false })]`
@[simp] theorem MonoidHom.toMulEquiv_apply [MulOneClass M] [MulOneClass N] (f : M →* N) (g : N →* M)
```

File: Mathlib/Algebra/Group/WithOne/Basic.lean [hunk 8]
```diff
@@ -127,30 +127,32 @@ theorem map_comp (f : α →ₙ* β) (g : β →ₙ* γ) : map (g.comp f) = (map
...
 #align mul_equiv.with_one_congr MulEquiv.withOneCongr
 #align add_equiv.with_zero_congr AddEquiv.withZeroCongr
 
+-- porting note: an approximation to this was being generated by `@[simps apply]` but it
+-- mentioned Equiv.toFun so was not in simp normal form. This might be a bug in `@[simps].
+@[simp] theorem _root_.MulEquiv.withOneCongr_apply {α β : Type _} [Mul α] [Mul β] (e : α ≃* β)
+  (a : WithOne α) : (MulEquiv.withOneCongr e).toEquiv a = (map (MulEquiv.toMulHom e)) a := rfl
+#align mul_equiv.with_one_congr_apply MulEquiv.withOneCongr_apply
+
+-- porting note: `@[to_additive, simps apply]` was not generating this lemma at the time of writing this note.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Group/WithOne/Basic.lean:150]:
```suggestion
-- porting note: `@[to_additive, simps apply]` was not generating this lemma at the
-- time of writing this note. 
```

**Comment by semorrison** [comment]
I don't think it's a good idea to proceed with this. I suggest a work-around for having simps produce the right lemmas at https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.40.5Bsimps.5D.20making.20lemmas.20not.20in.20simp.20normal.20form/near/315268553

**Comment by kbuzzard** [comment]
If we don't `simp` away `toFun` to a coercion, then what do we do with examples like the following?
```lean
import Mathlib.Algebra.Group.WithOne.Basic

/-
from mathlib:

@[simp, to_additive]
theorem MulHom.coe_mk [Mul M] [Mul N] (f : M → N) (hmul) : (MulHom.mk f hmul : M → N) = f := rfl
-/
-- this goal shows up in the middle of a chain of rewrites done by `simp`
example [Mul α] [Mul β] (e : α ≃* β) (x : α) :
    Function.comp (↑(MulEquiv.toMulHom (MulEquiv.symm e)))
      (↑(MulEquiv.toMulHom e)) x = x := by
  -- goal contains no `toFun`
  rw [MulHom.coe_mk] -- this lemma contains no `toFun` and is a `simp` lemma
  -- goal now contains `MulHom.toFun` (the first `↑`)
  sorry
```
I don't know how to stop `simp` creating goals which mention `toFun` and right now it doesn't know what to do with them.

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 9]
```diff
@@ -515,15 +515,31 @@ theorem map_ne_one_iff {M N} [MulOneClass M] [MulOneClass N] (h : M ≃* N) {x :
...
+    (f : F) (hf : Function.Bijective f) (a : M) : (MulEquiv.ofBijective f hf).toEquiv a = f a :=
+  rfl
+#align mul_equiv.of_bijective_apply MulEquiv.ofBijective_apply
+
+-- porting note: `@[to_additive, simps apply]` should be making this lemma but it
+-- doesn't get generated.
+@[simp] theorem _root_.AddEquiv.ofBijective_apply {M N F} [Add M] [Add N] [AddHomClass F M N]
+    (f : F) (hf : Function.Bijective f) (a : M) : (AddEquiv.ofBijective f hf).toEquiv a = f a :=
+  rfl
+#align add_equiv.of_bijective_apply AddEquiv.ofBijective_apply
```
Comment (urkud) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:541]: Can `to_additive` generate the additive lemma? In any case, you should use the tag so that proofs that use `MulEquiv.ofBijective_apply` work with `to_additive`.

File: Mathlib/Algebra/Hom/Equiv/Basic.lean [hunk 10]
```diff
@@ -588,6 +605,20 @@ def monoidHomCongr {M N P Q} [MulOneClass M] [MulOneClass N] [CommMonoid P] [Com
...
+    (MonoidHom.comp h (MulEquiv.toMonoidHom (MulEquiv.symm f))) :=
+  rfl
+#align mul_equiv.monoid_hom_congr_apply MulEquiv.monoidHomCongr_apply
+
+-- porting note: this should be being generated by `@[to_additive, simps apply]`.
+@[simp] theorem _root_.AddEquiv.addMonoidHomCongr_apply {M N P Q} [AddZeroClass M] [AddZeroClass N]
+    [AddCommMonoid P] [AddCommMonoid Q] (f : M ≃+ N) (g : P ≃+ Q) (h : M →+ P) :
+    (AddEquiv.addMonoidHomCongr f g).toEquiv h = AddMonoidHom.comp (AddEquiv.toAddMonoidHom g)
+    (AddMonoidHom.comp h (AddEquiv.toAddMonoidHom (AddEquiv.symm f))) :=
+  rfl
```
Comment (urkud) [inline Mathlib/Algebra/Hom/Equiv/Basic.lean:620]: Same here.

File: Mathlib/Algebra/Hom/Equiv/Basic.lean (hunk 9 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Hom/Equiv/Basic.lean:535]: Yes! Thanks!

File: Mathlib/Algebra/Hom/Equiv/Basic.lean (hunk 10 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Hom/Equiv/Basic.lean]: Thanks! And in several other places.

**Comment by semorrison** [comment]
bors merge
